US05925627
2-Cyclopropoxy-5-(trifluoromethoxy)benzaldehyde
Freshly cut lithium metal (97 mg, 13.9 mmol) was added to a solution of naphthalene (1.77 g, 13.9 mmol) in THF (20 mL) and the mixture was sonicated at room temperature for 30 min. to produce a dark green solution of lithium naphthalenide. A solution of 2-(1-phenylthiocycloprop-1-yl)oxy-5-(trifluoromethoxy)benzaldehyde (Description 1, 96 mg, 0.27 mmol) in THF (2 mL) was cooled to -78° C. and the solution of lithium naphthalenide in THF (2 mL) was added dropwise until the intense green colour persisted. The reaction was then stirred for 5 min., water (6 mL) was added and the mixture was warmed to room temperature. The mixture was extracted with ethyl acetate, the combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/Et2O (80:20), to give to give the title compound as a colorless oil (4 mg, 6%). 1H NMR (360 MHz, CDCl3) δ 0.86 (4H, m), 3.82-3.9 (1H, m), 7.42 (2H, m), 7.62 (1H, d, J 2.5 Hz), and 10.36 (1H, s).

reactant | 2-(1-phenylthiocycloprop-1-yl)oxy-5-(trifluoromethoxy)benzaldehyde | 0.27 mmol, 96 mg | C1(=CC=CC=C1)SC1(CC1)OC1=C(C=O)C=C(C=C1)OC(F)(F)F | C17H13F3O3S
reactant | lithium naphthalenide | [C-]1=CC=CC2=CC=CC=C12.[Li+]
reactant | water | 6 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-Cyclopropoxy-5-(trifluoromethoxy)benzaldehyde | 4 mg, 6% | C1(CC1)OC1=C(C=O)C=C(C=C1)OC(F)(F)F | C11H9F3O3
